US06924374B2
1-Allyl-4-(3-Chloro-5-trifluoromethyl-phenyl)-piperazine
Beginning with 1-(3-Chloro-5-trifluoromethyl-phenyl)-piperazine and allylbromide, the title compound was recovered by the procedure described in Example 2. MS m/z (rel. intensity, 70 eV)) 305 (M+, 7), 96 (57), 69 (bp), 68 (48), 56 (69).

reactant | 1-(3-Chloro-5-trifluoromethyl-phenyl)-piperazine | ClC=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C11H12ClF3N2
reactant | allylbromide | C(C=C)Br | C3H5Br
product | 1-Allyl-4-(3-Chloro-5-trifluoromethyl-phenyl)-piperazine | C(C=C)N1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)Cl | C14H16ClF3N2
